US05945315
To a solution of 3.8mg of Cryptophycin 1 in 1.5 mL of 2:1 1,2-dimethoxyethane/water was added 9 μL 1N HCl. The solution was allowed to stir at room temperature for 4 h, neutralized with potassium carbonate, and evaporated. The residue was partitioned between water and CH2Cl2. The CH2Cl2 -soluble material was purified by reversed-phase HPLC to obtain 3.3 mg of pure Cryptophycin 8.

reactant | Cryptophycin 1 | 3.8mg | C[C@@H]1CNC(=O)[C@H](NC(=O)/C=C/C[C@H](OC(=O)[C@@H](OC1=O)CC(C)C)[C@H](C)[C@@H]2[C@H](O2)C3=CC=CC=C3)CC4=CC(=C(C=C4)OC)Cl | C35H43ClN2O8
reactant | HCl | 1N, 9 μL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane water | 1.5 mL | COCCOC.O
product | Cryptophycin 8 | 3.3 mg | C[C@@H]1CNC(=O)[C@H](NC(=O)/C=C/C[C@H](OC(=O)[C@@H](OC1=O)CC(C)C)[C@H](C)[C@H]([C@H](C2=CC=CC=C2)Cl)O)CC3=CC(=C(C=C3)OC)Cl | C35H44Cl2N2O8
